US06110933
(S)-Methyl 3-hydroxyhexadecanoate (1.0 g) was dissolved in a solution of 40% methylamine in methanol (15 ml). This mixture was stirred at room temperature for 2 hours. The resulting crystalline solid was collected by filtration to give (S)-N-methyl-3-hydroxyhexadecanamide (0.71 g).

reactant | (S)-Methyl 3-hydroxyhexadecanoate | 1.0 g | O[C@H](CC(=O)OC)CCCCCCCCCCCCC | C17H34O3
reactant | methylamine | CN | CH5N
solvent | methanol | 15 ml | CO | CH4O
product | (S)-N-methyl-3-hydroxyhexadecanamide | 0.71 g | CNC(C[C@H](CCCCCCCCCCCCC)O)=O | C17H35NO2
